US07485732B2
Step 2 3-[(4-Chlorophenyl)(3-{2-fluoro-1-[3-fluoro-5-(4H-1,2,4-triazol-4-yl)phenyl]-2-methylpropyl}azetidin-1-yl)methyl]benzonitrile
A sample of 135 mg (0.41 mmole) of 4-[3-(1-Azetidin-3-yl-2-fluoro-2-methylpropyl)-5-fluorophenyl]-4H-1,2,4-triazole hydrochloride, 211 mg (0.62 mmole) of 3-[bromo(4-chlorophenyl)methyl]benzonitrile and 181 uL (1.025 mmole) of diisopropylethylamine in 5 mL of dry CH3CN was heated at reflux for 3 h.

reactant | 4-[3-(1-Azetidin-3-yl-2-fluoro-2-methylpropyl)-5-fluorophenyl]-4H-1,2,4-triazole hydrochloride | 0.41 mmole, 135 mg | Cl.N1CC(C1)C(C(C)(C)F)C=1C=C(C=C(C1)F)N1C=NN=C1
reactant | 3-[bromo(4-chlorophenyl)methyl]benzonitrile | 0.62 mmole, 211 mg | BrC(C=1C=C(C#N)C=CC1)C1=CC=C(C=C1)Cl | C14H9BrClN
reactant | diisopropylethylamine | 1.025 mmole, 181 uL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | 3-[(4-Chlorophenyl)(3-{2-fluoro-1-[3-fluoro-5-(4H-1,2,4-triazol-4-yl)phenyl]-2-methylpropyl}azetidin-1-yl)methyl]benzonitrile | ClC1=CC=C(C=C1)C(C=1C=C(C#N)C=CC1)N1CC(C1)C(C(C)(C)F)C1=CC(=CC(=C1)N1C=NN=C1)F | C29H26ClF2N5
